US06162818
A solution of 2,3-dihydro-7-methyl-6-nitroindole (3.1 g, 17.4 mmol) in 75 mL of benzene is treated with 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (DDQ, 4.34 g, 19.1 mmol). The solution turns black and over the next 15 minutes, turns to green with a green precipitate. This mixture is distributed between 400 mL of aqueous potassium carbonate solution and 500 mL of methylene chloride. The organic solution is removed, dried over magnesium sulfate, filtered and evaporated to dryness on a rotary evaporator to afford 3.05 g of 7-methyl-6-nitroindole as a yellow solid (99% yield).

reactant | 2,3-dihydro-7-methyl-6-nitroindole | 17.4 mmol, 3.1 g | CC=1C(=CC=C2CCNC12)[N+](=O)[O-] | C9H10N2O2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 19.1 mmol, 4.34 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | potassium carbonate | 400 mL | C([O-])([O-])=O.[K+].[K+]
reactant | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
solvent | benzene | 75 mL | C1=CC=CC=C1 | C6H6
product | 7-methyl-6-nitroindole | 3.05 g, 99% yield | CC=1C(=CC=C2C=CNC12)[N+](=O)[O-] | C9H8N2O2
